US06194406B1
1-(2-Methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(but-2-en-1-yl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 47.3 using 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (0.74 g, 1.41 mmol) and 4-(1-(but-2-en-1-yl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt (0.66 g, 1.40 mmol) to give the title compound: Rf=0.37 (silica gel, dichloromethane/methanol/concentrated aqueous ammonia 95/5/0.1).

reactant | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.41 mmol, 0.74 g | COC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C22H25N5O5S
reactant | 4-(1-(but-2-en-1-yl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | 1.40 mmol, 0.66 g | I.C(C=CC)N1C(=NC2=C1C=CC=C2)N2CCNCCC2
product | 1-(2-Methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(but-2-en-1-yl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CC=CC)C=CC=C3)C=C(C=C1)N1N=NN=C1 | C37H43N9O2
